US04321272
A mixture of 1-[4-(4-chlorophenyl)butan-2-on-1-yl]imidazole (2.0 g), 2,2-dimethylpropane-1,3-diol (0.84 g) and anhydrous p-toluenesulfonic acid (1.39 g) in toluene (20 ml) were heated under reflux through a Dean-Stark trap for 2 hours. The resulting mixture was poured into aqueous potassium carbonate solution, extracted with ether (2×100 ml) and the extracts dried (MgSO4). After removal of the solvent, the crude reaction product was chromatographed on silica gel eluting with 7% methanol in methylene chloride to give 1-[[2-(2-(4-chlorophenyl)ethyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl]imidazole (1.0 g) as a colorless oil which crystallized. The oil was dissolved in ether, the solution filtered and the hydrochloride salt formed by dropwise addition of ethereal hydrogen chloride until precipitation was almost complete. The precipitate was filtered, washed with ether and dried in vacuo to give 1-[[2-(2-(4-chlorophenyl)ethyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl]imidazole hydrochloride, m.p. 190°-191° C.

reactant | 1-[4-(4-chlorophenyl)butan-2-on-1-yl]imidazole | 2.0 g | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)=O | C13H13ClN2O
reactant | 2,2-dimethylpropane-1,3-diol | 0.84 g | CC(CO)(CO)C | C5H12O2
reactant | p-toluenesulfonic acid | 1.39 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[[2-(2-(4-chlorophenyl)ethyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl]imidazole | 1.0 g | ClC1=CC=C(C=C1)CCC1(OCC(CO1)(C)C)CN1C=NC=C1 | C18H23ClN2O2
